US08420631B2
7-Chloro-6-(2-hydroxyphenyl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Cool boron tribromide (3.5 mL, 1M solution in dichloromethane) in dichloromethane at 0° C. and add dropwise a solution of 7-chloro-6-(2-methoxyphenyl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (840 mg, 2.19 mmol) in dichloromethane (5 mL). Stir at room temperature for 6 h. Partition between iced water and EtOAc. Dry the organic layer over Na2SO4, filter and concentrate in vacuo to obtain the desired intermediate as a white solid (800 mg, 99%).

reactant | boron tribromide | 1M, 3.5 mL | B(Br)(Br)Br | BBr3
reactant | 7-chloro-6-(2-methoxyphenyl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.19 mmol, 840 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C1=C(C=CC=C1)OC | C19H17ClF3NO2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 7-Chloro-6-(2-hydroxyphenyl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 800 mg, 99% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C1=C(C=CC=C1)O | C18H15ClF3NO2
